US07572805B2
Part A. (E)-Ethyl 2-(3-(benzyloxy)-3-oxoprop-1-enyl)-6-methylbenzoate
To a solution of 6-methylsalicyclic acid ethyl ester (10.0 g, 55.56 mmol) in 250 mL of methylene chloride at −40° C. was added triethylamine (9.3 mL, 66.67 mmol). Then trifluoromethanesulfonic anhydride (9.8 mL, 58.33 mL) was added slowly over 20 min and the reaction was allowed to stir while warming to ambient temperature. The reaction mixture was washed with water and brine, dried (MgSO4) and was concentrated in vacuo to afford a trifluoromethanesulfonate as an oil (18.7 g) which was used without purification. The trifluoromethanesulfonate was taken up in 150 mL of DMF and then there was added benzyl acrylate (14.5 g, 82.5 mmol) and triethylamine (15.3 mL, 110 mmol). The reaction mixture was degassed with a stream of argon and then there was added bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (450 mg, 0.55 mmol). The reaction mixture was allowed to stir at 110° C. for 3 days. The reaction mixture was allowed to cool and was diluted with ethyl acetate. The organics were washed with 1 N HCl, water and brine, dried (MgSO4) and concentrated. The residue was purified (ISCO, elution with 0-10% EtOAc/hexane) to afford 5.82 g (33%) of the title compound as an oil. LRMS (ESI): 325.1 (M+H)+.

reactant | benzyl acrylate | 82.5 mmol, 14.5 g | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
reactant | triethylamine | 110 mmol, 15.3 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 0.55 mmol, 450 mg | ClCCl | CH2Cl2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (E)-Ethyl 2-(3-(benzyloxy)-3-oxoprop-1-enyl)-6-methylbenzoate | 5.82 g, 33% | C(C1=CC=CC=C1)OC(/C=C/C1=C(C(=O)OCC)C(=CC=C1)C)=O | C20H20O4
